US07968573B2
To a mixture of 12.96 g of 4,4,4-trifluoro-1-(2-furyl)-1,3-butanedione, 8.56 g of sodium acetate and 40 ml of acetic acid was added 11.26 g of 2-chlorophenylhydrazine hydrochloride at room temperature. The mixture was stirred at 60° C. for 1 hour, and concentrated under reduced pressure. After the reaction mixture was concentrated under reduced pressure and water was poured into the residue, the mixture was extracted with chloroform three times. The organic layers were combined, washed with an aqueous saturated sodium chloride solution, dried over magnesium sulfate, and concentrated under reduced pressure. The resulting residue was subjected to silica gel column chromatography to obtain 18.43 g of 1-(2-chlorophenyl)-5-(2-furyl)-3-trifluoromethyl-1H-pyrazole of the formula:

reactant | 4,4,4-trifluoro-1-(2-furyl)-1,3-butanedione | 12.96 g | FC(C(CC(=O)C=1OC=CC1)=O)(F)F | C8H5F3O3
reactant | sodium acetate | 8.56 g | C(C)(=O)[O-].[Na+]
reactant | 2-chlorophenylhydrazine hydrochloride | 11.26 g | Cl.ClC1=C(C=CC=C1)NN
solvent | acetic acid | 40 ml | C(C)(=O)O | C2H4O2
product | 1-(2-chlorophenyl)-5-(2-furyl)-3-trifluoromethyl-1H-pyrazole | 18.43 g | ClC1=C(C=CC=C1)N1N=C(C=C1C=1OC=CC1)C(F)(F)F | C14H8ClF3N2O
